US07169772B2
20.85 g of methyl 2-chloro-4-fluorobenzoate were dissolved in 150 ml of N-methylpyrrolidone, 30.68 g of potassium carbonate and 9.38 ml of 3-methylpyrazole were added thereto, and the mixture was stirred at 120° C. for 3 hours. Additionally, thereto was added 1.79 ml of 3-methylpyrazole, and the mixture was stirred at 120° C. for 3 hours. The reaction solution was cooled, mixed with water, and extracted with EtOAc. The organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated, and then the residue was purified by silica gel column chromatography (hexane-EtOAc (20:1)) to obtain 9.25 g of methyl 2-chloro-4-(3-metyl-1H-pyrazol-1-yl)benzoate.

reactant | methyl 2-chloro-4-fluorobenzoate | 20.85 g | ClC1=C(C(=O)OC)C=CC(=C1)F | C8H6ClFO2
reactant | potassium carbonate | 30.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylpyrazole | 9.38 ml | CC1=NNC=C1 | C4H6N2
reactant | 3-methylpyrazole | 1.79 ml | CC1=NNC=C1 | C4H6N2
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | methyl 2-chloro-4-(3-metyl-1H-pyrazol-1-yl)benzoate | 9.25 g | ClC1=C(C(=O)OC)C=CC(=C1)N1N=C(C=C1)C | C12H11ClN2O2
